US05719141
e) Ethyl 1-(tert-butoxycarbonyl)indole-3-carboxylate
A solution of 3.15 g of ethyl indole-3-carboxylate, 4.36 g of di-tert-butylcarbonate and 0.02 g of 4-DMAP in 30 ml of acetonitrile is stirred at room temperature for 15 min. The reaction mixture is then diluted with 200 ml of ethyl acetate. The organic phase is washed with dilute hydrochloric acid, water and saturated sodium chloride solution in succession, dried over sodium sulfate and concentrated. Purification by means of FC over 80 g of silica gel with a 15:1 mixture of hexane and ethyl acetate as the mobile phase gives 5.1 g of the title compound: Rf (G)=0.41.

reactant | ethyl indole-3-carboxylate | 3.15 g | N1C=C(C2=CC=CC=C12)C(=O)OCC | C11H11NO2
reactant | di-tert-butylcarbonate | 4.36 g | C(C)(C)(C)OC(OC(C)(C)C)=O | C9H18O3
catalyst | 4-DMAP | 0.02 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | Ethyl 1-(tert-butoxycarbonyl)indole-3-carboxylate | 5.1 g | C(C)(C)(C)OC(=O)N1C=C(C2=CC=CC=C12)C(=O)OCC | C16H19NO4
